US05055482
3-Carboethoxy-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-hydroxypyrazole (2.0 g) was added to a stirred suspension of sodium hydride (80% dispersion in oil; 0.2 g) in dry dioxan (20 ml). When the resultant effervescence had subsided, the solution was heated to 80°-900 °C. and stirred while 2-chloro-1,1,2-trifluoroethylene was passed through. After 6 hours, the reaction was complete and the solvent was evaporated to dryness. The residue was dissolved in dilute hydrochloric acid (2M; 10 ml) and dichloromethane (20 ml) and the layers were separated. The aqueous layer was extracted with dichloromethane (30 ml) and the combined organic layers were washed with water (20 ml), dried over magnesium sulfate, filtered and evaporated. The residue was purified by dry-column chromatography (eluant ether:hexane 1:3) to give (RS)-3-carboethoxy-4-(2-chloro-1,1,2-trifluoroethoxy)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (1.0 g). This was recrystallised from hexane to yield colorless needles, m.p. 105°-106.5° C.

reactant | 3-Carboethoxy-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-hydroxypyrazole | 2.0 g | C(=O)(OCC)C1=NN(C=C1O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H9Cl2F3N2O3
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | 2-chloro-1,1,2-trifluoroethylene | ClC(=C(F)F)F | C2ClF3
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | (RS)-3-carboethoxy-4-(2-chloro-1,1,2-trifluoroethoxy)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 1.0 g | C(=O)(OCC)C1=NN(C=C1OC(C(F)Cl)(F)F)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H9Cl3F6N2O3
